US05607947
Preparation of (R)-3-(3,4-dichlorophenyl)-1-[(2-chloro-6-fluorophenyl)acetyl]-3-[2-(4-cyclohexylpiperaz in-1-yl)ethyl]pyrrolidine
In 30 ml of acetonitrile (R)-3-(2-methanesulfonyloxyethyl)-3-(3,4-dichlorophenyl)-1-[(2-chloro-6-fluorophenyl)acetyl]pyrrolidine (3.17 g), prepared as described, supra, is mixed with an equimolar amount of 1-cyclohexylpiperazine. The reaction mixture is then heated to reflux and refluxed for about ten hours. The mixture is then concentrated under vacuum and the residue is taken up in methylene chloride and washed with a 3N solution of hydrochloric acid, followed by a wash with brine. The organic fraction is dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue precipitates from an acetone/diethyl ether mixture to give the desired title product.

reactant | 1-cyclohexylpiperazine | C1(CCCCC1)N1CCNCC1 | C10H20N2
reactant | acetonitrile (R)-3-(2-methanesulfonyloxyethyl)-3-(3,4-dichlorophenyl)-1-[(2-chloro-6-fluorophenyl)acetyl]pyrrolidine | 30 ml, 3.17 g | CS(=O)(=O)OCC[C@@]1(CN(CC1)C(CC1=C(C=CC=C1F)Cl)=O)C1=CC(=C(C=C1)Cl)Cl.C(C)#N
product | (R)-3-(3,4-dichlorophenyl)-1-[(2-chloro-6-fluorophenyl)acetyl]-3-[2-(4-cyclohexylpiperaz in-1-yl)ethyl]pyrrolidine | ClC=1C=C(C=CC1Cl)[C@@]1(CN(CC1)C(CC1=C(C=CC=C1F)Cl)=O)CCN1CCN(CC1)C1CCCCC1 | C30H37Cl3FN3O
